US06599893B2
(7R)-7-[2-(2-Amino-5-chlorothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(4-methyl-[1,2,3]thiadiazol-5-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid (34)
To a solution of (7R)-7-[2-(2-amino-5-chlorothiazol-4-yl)-2-trityloxyiminoacetylamino]-3-(4-methyl-[1,2,3]thiadiazol-5-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene 2-carboxylic acid benzhydryl ester (990 mg, 1.05 mmol) in dichloromethane (21 mL) was added triethylsilane (11 mL) followed by addition of trifluoroacetic acid (21 mL). After 1 hr at room temperature the reaction mixture was concentrated under vacuum. Disopropyl ether was added to the oily residue. The title compound precipitated and was filtered, washed with additional diisopropyl ether and dried under vacuum (528 mg, 95%).

reactant | (7R)-7-[2-(2-amino-5-chlorothiazol-4-yl)-2-trityloxyiminoacetylamino]-3-(4-methyl-[1,2,3]thiadiazol-5-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene 2-carboxylic acid benzhydryl ester | 1.05 mmol, 990 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C([C@H](C2SCC1SC1=C(N=NS1)C)NC(C(=NOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1N=C(SC1Cl)N)=O)=O | C47H36ClN7O5S4
reactant | triethylsilane | 11 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 21 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 21 mL | ClCCl | CH2Cl2
product | (7R)-7-[2-(2-Amino-5-chlorothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(4-methyl-[1,2,3]thiadiazol-5-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC(=C(N1)C(C(=O)N[C@H]1C2SCC(=C(N2C1=O)C(=O)O)SC1=C(N=NS1)C)=NO)Cl | C15H12ClN7O5S4
